US07049438B2
Using an analogous procedure to that described in the portion of Example 31 that is concerned with the preparation of starting materials, 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-7-methoxy-3,4-dihydroquinazolin-4-one (1 g) was reacted with triphenylphosphine and carbon tetrachloride to give 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-chloro-7-methoxyquinazoline (0.8 g); NMR Spectrum: (CDCl3) 1.5 (s, 9H), 1.9–2.1 (m, 4H), 3.5–3.7 (m, 4H), 3.96 (s, 3H), 4.72 (m, 2H), 6.6 (d, 1H), 6.98 (d, 1H), 8.82 (s, 1H); Mass Spectrum: M+H+ 394 and 396.

reactant | 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-7-methoxy-3,4-dihydroquinazolin-4-one | 1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(NC=NC2=CC(=C1)OC)=O | C19H25N3O5
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-chloro-7-methoxyquinazoline | 0.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=NC2=CC(=C1)OC)Cl | C19H24ClN3O4
